Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chills, cough
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ PMHx HTN, HLD, and chronic venous stasis 
who presents with fevers and cough.

He notes that he has had a dry cough over the past several days. 
 Yesterday evening he developed rigors and felt cold and 
endorses subjective fever.  He notes that he has had some mild 
dyspnea; he also has had very mild chest pain while coughing.  
He denies any dysuria, abdominal pain, n/v/diarrhea.  His BLE 
edema L > R has been stable and he has not noticed any increased 
erythema or redness.

In the ED, initial VS 100.8,115, 129/74, 20, 94% on RA.  His 
exam was notable for bilateral crackles with rhonchi prominjent 
at the bases, mild wheezing, and 3+ BLE edema with chronic 
venous stasis changes.  Initial labs showed wnl chem7, wnl LFT,s 
wnl CBC, proBNP 276, lactate 1.6.  UA negative for UTI.  CXR 
showed overall stable R > L basilar reticular opacities, 
possibly worse than prior but without any significant changes.  
Given his respiratory symptoms, tachycardia and fever, he was 
referred for inpatient admission.  He was given 
ceftriaxone/azithromycin prior to transfer to the floor.

Upon arrival to the floor, the patient reports that his 
dyspnea/cough is improved and that he feels somewhat improved 
from his initial presentation.    
 
Review of Systems:  
(+) per HPI  
(-) night sweats, headache, vision changes, rhinorrhea, 
congestion, sore throat, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  

 
Past Medical History:
colonic polyps
h/o lipoma
neuropathy
osteoarthritis
HLD
BPH
HTN
venous stasis
 
Social History:
___
Family History:
No known family history.
 
Physical Exam:
ADMISSION EXAM:
Vitals-  98.6 118 / 53 82 16 95 Ra 
GENERAL: very pleasant, very hard-of-hearing, well-appearing 
elderly male in NAD
HEENT: MMM, NCAT, EOMI, anicteric sclera
CARDIAC: Regular rhythm, normal rate, ___ systolic murmur best 
heard at apex radiating to axilla
LUNGS: scattered end-expiratory wheezing diffusely, no 
rales/rhonchi, unlabored respirations
ABDOMEN:  soft, NTND, normoactive bowel sounds
EXTREMITIES: wwp, 2+ pitting edema of BLE L > R with overlying 
venous stasis changes
SKIN: no rash, +areas of mild skin breakdown over LLE
NEUROLOGIC: AOx3, grossly nonfocal.

DISCHARGE EXAM:
Vitals-  98.7PO 146 / 66 64 18 94 Ra 
GENERAL: very pleasant, very hard-of-hearing, well-appearing
elderly male in NAD
EYES: EOMI, anicteric sclera
ENT: MMM, clear OP 
CARDIAC: Regular rhythm, normal rate, ___ systolic murmur best
heard at apex radiating to axilla
LUNGS: scattered end-expiratory wheezing diffusely, no
rales/rhonchi, unlabored respirations
ABDOMEN:  soft, NTND, normoactive bowel sounds
EXTREMITIES: wwp, 2+ pitting edema of BLE L > R with overlying
venous stasis changes
SKIN: no rash, +areas of mild skin breakdown over LLE
NEUROLOGIC: AOx3, grossly nonfocal.
 
Pertinent Results:
ADMISSION LABS:
___ 08:35PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:35PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-6.5 
LEUK-NEG
___ 08:35PM URINE  ___ BACTERIA-NONE YEAST-NONE 
___ 08:03PM   LACTATE-1.6
___ 07:50PM   GLUCOSE-94 UREA N-18 CREAT-0.7 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-28 ANION GAP-15
___ 07:50PM   ALT(SGPT)-9 AST(SGOT)-23 ALK PHOS-77 TOT 
BILI-0.5
___ 07:50PM   proBNP-276
___ 07:50PM   ALBUMIN-3.5
___ 07:50PM   WBC-5.9 RBC-4.41* HGB-14.7 HCT-42.9 MCV-97 
MCH-33.3* MCHC-34.3 RDW-12.6 RDWSD-45.3
___ 07:50PM   NEUTS-76.1* LYMPHS-8.3* MONOS-10.5 EOS-4.1 
BASOS-0.7 IM ___ AbsNeut-4.49# AbsLymp-0.49* AbsMono-0.62 
AbsEos-0.24 AbsBaso-0.04
___ 07:50PM   PLT COUNT-160

Micro:
___ BCx x 2 pending
___ UCx pending
 
Imaging/Studies:  
___ CXR
FINDINGS:  
Right greater than left basilar reticular opacities are 
re-demonstrated, previously seen to represent subpleural 
microlithiasis. No definite new focal consolidation is seen. 
There is persistent blunting of the right costophrenic  angle. 
Otherwise, no large pleural effusion is seen. There is no 
evidence pneumothorax. Cardiac and mediastinal silhouettes are 
stable. 
IMPRESSION:  
No significant interval change. 

DISCHARGE LABS:
___ 07:00AM BLOOD WBC-4.5 RBC-4.30* Hgb-14.2 Hct-41.5 
MCV-97 MCH-33.0* MCHC-34.2 RDW-12.6 RDWSD-44.7 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-89 UreaN-18 Creat-0.7 Na-137 
K-4.1 Cl-100 HCO3-28 AnGap-13
___ 07:00AM BLOOD ALT-10 AST-26 AlkPhos-65 TotBili-0.9
___ 07:00AM BLOOD Albumin-3.5 Calcium-8.5 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ PMHx HTN, HLD, and chronic venous stasis 
who presents with fevers and cough.

# Cough
# Fever
# Viral URI vs. Community Acquired Pneumonia
Patient presenting with nonproductive cough, fevers and dyspnea. 
 CXR showed stable reticular bibasilar opacities without any 
significant changes.  He was placed on empiric treatment for 
possible newly evolving CAP with ceftriaxone/azithromycin which 
was switched to levaquin for completion of 5 day course.  He was 
also checked for influenza and this was negative.  We discussed 
getting potential SLP eval given pt's newly fitted dentures, but 
he was observed while eating with no signs of aspiration.  Doubt 
that pt would want to follow modified diet as well.

# Venous insufficiency
No significant change in his baseline BLE edema according to 
patient.  ___ be related to amlodipine, but seems to be 
relatively stable at this time with compression stockings and 
ongoing Lasix. 

# HTN
Continued home amlodipine for now

# BPH
Patient also with known hydrocele.  Followed by Dr. ___ 
(___).  Pt originally had f/u apt schedule for ___ but this 
was canceled for unclear reasons.  Appt rescheduled and Dr. ___ 
___ as pt still c/o frequency, hesitancy and dysuria.  He 
was started on 5mg of finasteride in addition to tamsulosin per 
Dr. ___ recommendation.

# Social/Homecare
Pt's daughter ___ expressed some concerns about pt's home 
situation as he still lives by himself and is quite independent 
with his ADL's and IADL's, however, she is concerned about his 
home being cluttered and unkempt.  He is also hard of hearing 
and awaiting audiology eval and she has been hesitant to d/w him 
that he should not be driving.  Pt met with ___ to discuss Elder 
Services referral and they would like to schedule f/u in 
___ clinic moving forwards to discuss above issue.

Transitional:
=============
[ ] Pt with chronic ___ edema for which he has been taking Lasix. 
 Please consider if amlodipine should be switched to another 
anti-hypertensive as it could be contribution to pt's edema.

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. Furosemide 20 mg PO BID 
4. Tamsulosin 0.4 mg PO BID 

 
Discharge Medications:
1.  Finasteride 5 mg PO DAILY 
RX *finasteride 5 mg 1 tablet(s) by mouth every day Disp #*30 
Tablet Refills:*1 
2.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth every day Disp #*3 
Tablet Refills:*0 
3.  amLODIPine 2.5 mg PO DAILY  
4.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
5.  Furosemide 20 mg PO BID  
6.  Tamsulosin 0.4 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community acquired pneumonia vs. viral URI
Benign prostatic hyperplasia
Bilateral leg edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with a fever and cough.  We think that this might 
have been due to a virus vs. pneumonia.  We treated you with 
antibiotics for pneumonia and you got better.  It is likely that 
you will have a cough for several weeks after this infection has 
healed.  

Please return if you have worsening fevers, chills, shortness of 
breath, or wheezing.

We are also starting you on a new medication for your prostate.  
Dr. ___ call you with a sooner appointment if one becomes 
available.

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___